US05571506
Step 6: Preparation of Methyl 2-Tert-butyldimethylsilyloxymethyl-4-methoxy-5-iodohydrocinnamate
A suspension of 60% sodium hydride in mineral (1.2 g) in THF (56 ml) is cooled to -20° C. and of solution of methyl 2-tert-butyldimethylsilyloxymethyl-4-hydroxy-5-iodohydrocinnamate (12.6 g), iodomethane (5 ml) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (DMPU) (8 ml) in THF (20 ml) is added. The cold bath is removed, the mixture stirred for about 2 hours, and diluted with ether. The ether solution is washed with 0.1M HCl, brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by flash chromatography, eluting with 10% ether in hexanes, to give the desired product.

reactant | sodium hydride | [H-].[Na+]
reactant | methyl 2-tert-butyldimethylsilyloxymethyl-4-hydroxy-5-iodohydrocinnamate | 12.6 g | [Si](C)(C)(C(C)(C)C)OCC1=C(CCC(=O)OC)C=C(C(=C1)O)I | C17H27IO4Si
reactant | iodomethane | 5 ml | IC | CH3I
reactant | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 8 ml | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | THF | 56 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Methyl 2-Tert-butyldimethylsilyloxymethyl-4-methoxy-5-iodohydrocinnamate | [Si](C)(C)(C(C)(C)C)OCC1=C(CCC(=O)OC)C=C(C(=C1)OC)I | C18H29IO4Si
